US04661505
6-(4-Acetyl-3-hydroxy-2-propylphenoxy)heptanoic acid
Following the procedure of Example 15, ethyl 6-oxo-heptanoate was transformed into ethyl 6-bromo-heptanoate. The reaction of 4.74 g. of ethyl 6-bromoheptanoate and 3.88 g. of 2,4-dihydroxy-3-propylacetophenone followed by hydrolysis in the usual manner gave 300 mg. of the title product as an oil.

reactant | ethyl 6-oxo-heptanoate | O=C(CCCCC(=O)OCC)C | C9H16O3
reactant | ethyl 6-bromo-heptanoate | BrC(CCCCC(=O)OCC)C | C9H17BrO2
reactant | 2,4-dihydroxy-3-propylacetophenone | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
product | 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)heptanoic acid | C(C)(=O)C1=C(C(=C(OC(CCCCC(=O)O)C)C=C1)CCC)O | C18H26O5
